US06846839B1
Dimethylformamide (11.7 g) and 240 mL of dichloromethane in a 1 L, 3-neck round bottom flask equipped with magnetic stirring, a reflux condenser, and a dropping funnel, was cooled to −4° C. in an ice-salt bath maintained at −10° C. Phosphorus oxychloride (24.5 g) was rapidly added via the dropping funnel. The temperature increased to −3° C., and then, with further stirring, decreased to −7° C. Crude 3-(2-carboxyethyl)-4,5,6,7-tetrahydroindole dissolved in 160 mL of dichloromethane was added via the dropping funnel over 15 min keeping the temperature below 1° C. The mixture was refluxed for 10 min, cooled to 5° C., and diluted with 300 mL of water. The aqueous layer was evaporated and was saved, and the organic layer was extracted with another 30 mL of water. The aqueous layers were combined, were washed with 30 mL of dichloromethane and were cooled to 5° C. The aqueous layer was adjusted to pH 10 with about 48 mL of 10 N sodium hydroxide, accompanied by a temperature increase to 15° C. The mixture was then cooled to 10° C. and adjusted to pH 2-3 with about 48 ml of 10 N hydrochloric acid. The oil which formed solidified, and was collected by vacuum filtration, was washed three times with 20 mL of water each time, and was dried under high vacuum to give 5.5 g (31% yield) of 3-(2-carboxyethyl)-2-formyl-4,5,6,7-tetrahydroindole as a brown solid.

reactant | Dimethylformamide | 11.7 g | CN(C=O)C | C3H7NO
reactant | Phosphorus oxychloride | 24.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(2-carboxyethyl)-4,5,6,7-tetrahydroindole | C(=O)(O)CCC1=CNC=2CCCCC12 | C11H15NO2
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
solvent | water | 300 mL | O | H2O
solvent | dichloromethane | 240 mL | ClCCl | CH2Cl2
product | 3-(2-carboxyethyl)-2-formyl-4,5,6,7-tetrahydroindole | 5.5 g, 31% yield | C(=O)(O)CCC1=C(NC=2CCCCC12)C=O | C12H15NO3
